US07439232B2
Next, to a mixture of 3-(methoxymethoxy)pyridine (10.0 g, 71.9 mmol) and diethyl ether (1000 ml), a 1.47 mol/L t-butyllithium n-pentane solution (62 ml, 86.2 mmol) was added dropwise at −70° C. over 25 minutes. After stirring at −70° C. for 1 hour, a solution of 4-methoxycarbonylbenzaldehyde (14.0 g, 90.5 mmol) in diethyl ether (80 mL) was added over 30 minutes and stirred at −70° C. for 1.5 hours. After warming to room temperature, the reaction mixture was poured into saturated aqueous ammonium chloride and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:80) to give (4-methoxycarbonylphenyl)-[3-(methoxymethoxy)pyridin-4-yl]-methanol (2.06 g, 9.4%) as a yellow powder.

reactant | 3-(methoxymethoxy)pyridine | 71.9 mmol, 10.0 g | COCOC=1C=NC=CC1 | C7H9NO2
reactant | t-butyllithium n-pentane | 86.2 mmol, 1.47 mol/L, 62 ml | CCCCC.C(C)(C)(C)[Li]
reactant | 4-methoxycarbonylbenzaldehyde | 90.5 mmol, 14.0 g | COC(=O)C1=CC=C(C=O)C=C1 | C9H8O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 80 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 1000 ml | C(C)OCC | C4H10O
product | (4-methoxycarbonylphenyl)-[3-(methoxymethoxy)pyridin-4-yl]-methanol | 2.06 g, 9.4% | COC(=O)C1=CC=C(C=C1)C(O)C1=C(C=NC=C1)OCOC | C16H17NO5
